US09340544B2
(4-Fluoro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine (900 mg, 3.29 mmol) and 2,4-pentanedione (0.47 mL, 4.16 mmol) in ethanol (25 mL) were heated to reflux for 20 min. Water was added and the white crystalline compound was collected by filtration, washed with water and dried to give [2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-fluoro-phenyl)-amine (1.1 g, 100%).

reactant | (4-Fluoro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | 3.29 mmol, 900 mg | FC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12FN7
reactant | 2,4-pentanedione | 4.16 mmol, 0.47 mL | CC(CC(C)=O)=O | C5H8O2
reactant | Water | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | [2-(3,5-dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-fluoro-phenyl)-amine | 1.1 g, 100% | CC1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)F | C17H16FN7
